
*---------------------------------------------------------------------------
*  AION “HALO”  –  Electro-Harmonix Big Muff Pi  (’73 Ram’s Head)
*---------------------------------------------------------------------------

***** SUPPLY & POWER FILTER ***********************************************
*VRAW    9VRAW     0       DC 9
VRAW    VCC       0       DC 9
*D1      9VRAW     VA_IN   D1N5817         ; reverse-polarity guard (Schottky)
*R24     VA_IN     VA      100             ; 100 Ω RC filter
*C14     VA        0       100u            ; bulk reservoir
*C15     VA        0       100n            ; HF bypass
*.alias   VCC VA                                ; convenience name
vin IN 0 SIN(0 0.05 500)

***** INPUT & PULLDOWN ****************************************************
RPD     IN        0       2.2Meg          ; input pulldown
R2      IN        N1      33k
C1      N1        B1      100n

***** STAGE 1 *************************************************************
*  Q1 common-emitter with feedback
R3      B1        0       100k
R4      C1N       B1      470k            ; feedback
C2      C1N       B1      470p
R5      E1        0       100             ; emitter
R6      C1N       VCC     10k
Q1      C1N       B1      E1      2N3904
C3      C1N       SUS_TOP 100n

***** STAGE 2 *************************************************************
C4      SUS_W     CLIP_IN 100n
R8      CLIP_IN   B2      10k
R9      B2        0       100k
R10     C2N       B2      470k
Q2      C2N       B2      E2      2N3904
R11     E2        0       100
C5      C2N       B2      470p
C6      B2       CLIP2_IN 100n
D3      C2N      CLIP2_IN 1N914
D2      CLIP2_IN  C2N     1N914
R12     VCC      C2N      10k

***** HARD-CLIPPING NODE **************************************************

***** STAGE 3 *************************************************************
C7      C2N       ST3IN   100n
R13     ST3IN     B3      10k
R14     B3        0       100k
Q3      C3N       B3      E3      2N3904
R15     B3        C3N     470k
R16     E3        0       100
C8      B3        C3N     470p
C9      B3        CLIP3_IN 100n
D4      CLIP3_IN  C3N      1N914
D5      C3N       CLIP3_IN 1N914
R17     C3N       VCC     10k

***** STAGE 4 (OUTPUT BUFFER) *********************************************
C12     TONE_W    B4      100n
R20     VCC       B4      470k
R21     B4        0       100k
R23     E4        0       2.7k
Q4      C4N       B4      E4      2N3904
C13     C4N       VOL_TOP 100n
R22     VCC       C4N     10k

*****POTS*********
RSUS_T  SUS_TOP   SUS_W     50k
RSUS_B  SUS_W     RKM1      50k
R7      RKM1      0         560

RVOL_T  VOL_TOP   OUT       1
RVOL_B  OUT       0         100k

RTONE_T TONE_TOP TONE_W     50k
RTONE_B TONE_W   TONE_BOT   50k

***** BIG-MUFF TONE NETWORK ***********************************************
* Mids switch: DPDT on-on-on    A-side = CX1 / C11  •  B-side = CX2 / C10
*   1 = scoop  • 2 = flat  • 3 = hump                       (see Halo docs)
C10     C3N       TONE_TOP   3.9n      ; high-pass branch cap
**CX1     C3N       TONE_TOP   12n
C11     TONE_BOT   0         12n       ; low-pass branch cap
**CX2     TONE_BOT   0         3.9n
R19     C3N       TONE_BOT  33k
R18     TONE_TOP  0         33k

* 100 kB TONE pot (centre = flat).  Wired full-CW here (1 Ω / 99 k ladder).

***** OUTPUT VOLUME *******************************************************

***** SUSTAIN (GAIN) POT **************************************************
* In a Big Muff the 100 kB “Sustain” pot sits between the collectors of
* stages 1 & 2; wired full-CW here.

***** SMALL SHAPING CAPS **************************************************

***** DEVICE MODELS *******************************************************
*.model 2N3904 NPN (BF=200 IS=1e-15 VAF=80)
.MODEL 2N3904 NPN (IS=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259 Ise=6.734 Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75 Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*.model 1N914  D   (IS=2e-9 N=1.7 CJO=2p TT=6n)
.model 1N914 D(Is=2.52n Rs=.568 N=1.752 Cjo=4p M=.4 tt=20n Iave=200m Vpk=75)
.model D1N5817 D (IS=35u RS=0.05 N=1.2 CJO=110p TT=10n)

*---------------------------------------------------------------------------
.control
  * quick sanity check
  * 100 mVp 1 kHz sine
  *vin IN 0 SIN(0 0.1 1k)

  * comment the next two lines and uncomment the .ac if you’d rather sweep
  *tran 5u 100m
  tran 2u 100m 80m
  plot v(IN) v(OUT)

  *ac dec 30 20 20k
.endc
.end
